US08445900B2
Lithium aluminum hydride (4.1 g) is slowly introduced in small amounts over 50 minutes, in an ice bath, into a mixture of 3,7-dibromodibenzothiophene dioxide (20 g) and anhydrous ether (200 ml) in a 500-ml flask, and the mixture is heated to reflux and stirred for 2 hours. Water (200 ml) is added thereto to deactivate lithium aluminum hydride, and chloroform (200 ml) and concentrated hydrochloric acid (40 ml) are added to the mixture. The resulting mixture is thoroughly stirred, and the organic layer is separated. The aqueous layer is further extracted with chloroform (200 ml×2), and the extract is combined with the organic layer. The combined organic layer is washed with water (200 ml) and saturated brine (200 ml), and is dried over calcium chloride. The solvent is distilled off, and colorless crystals thus obtained are recrystallized from ethyl acetate+ethanol (16:3). Thus, 8.8 g of 3,7-dibromodibenzothiophene is obtained.

reactant | Lithium aluminum hydride | 4.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,7-dibromodibenzothiophene dioxide | 20 g | BrC=1C=CC2=C(S(C3=C2C=CC(=C3)Br)(=O)=O)C1 | C12H6Br2O2S
reactant | ether | 200 ml | CCOCC | C4H10O
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Water | 200 ml | O | H2O
product | 3,7-dibromodibenzothiophene | 8.8 g | BrC=1C=CC2=C(SC3=C2C=CC(=C3)Br)C1 | C12H6Br2S
